2107-01-20 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Aline placed
   - PICC ordered but on hold given INR (needs to be <3)
   - MRI/MRA - no acute bleed/mass effect. Mild TIAs in perivent area, no
   fractures
   - Blood/urine cultures negative
   - Induced sputum cx: contamined with mixed oral flora (cancelled)
   - Bronch: Minimal secretions, no BAL sent
   - Slowly improving hypernatremia (151 --> 149)
   - CT chest/abdomen: Mod-larg b/l pleural effusions w/o enhancement.
   Collapsed LLL, nearly collapsed RLL. Central airways patent, no large
   PE, Enlarged PA ?pulm htn.
   - Episode of bradycardia to HR30s (6-8 beats): EKG unchanged, atropine
   at bedside, PE unchanged, repleted K... held Diltiazem dose (MAP 50-60)
   - Cards consult recs
   - Still need to figure out GI plans for PEG
   - Still need to contact PCP [**Last Name (NamePattern4) **]: past PFTs if any
 ARTERIAL LINE - START [**2107-1-19**] 12:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2107-1-19**] 02:29 PM
   Brain
 BRONCHOSCOPY - At [**2107-1-19**] 04:46 PM
 EKG - At [**2107-1-20**] 01:20 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-19**] 03:30 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-20**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 67 (60 - 117) bpm
   BP: 147/49(77) {97/27(56) - 161/68(93)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,500 mL
                                                                    912 mL
   PO:
             TF:
             77 mL
   IVF:
                                                                  1,500 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                    388 mL
                                                                    218 mL
   Urine:
                                                                    388 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                    694 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 41 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.50/43/84.[**Numeric Identifier 1000**]/33/8
   Ve: 11.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, more
   interactive today, demonstrating discomfort/desire to be extubated
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   450 K/uL
   8.1 g/dL
   138 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   18 mg/dL
   113 mEq/L
   148 mEq/L
   25.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2107-1-19**]  07:14 AM
                             [**2107-1-19**]  12:31 PM
                             [**2107-1-19**]  04:26 PM
                             [**2107-1-19**]  10:40 PM
                             [**2107-1-20**]  04:12 AM
                             [**2107-1-20**]  04:25 AM
                             [**2107-1-20**]  05:37 AM
   WBC
   7.9
   Hct
   25.0
   Plt
   450
   Cr
   0.8
   0.7
   0.7
   TCO2
   33
   34
   37
   35
   Glucose
   87
   155
   138
   Other labs: PT / PTT / INR:19.8/29.9/1.8, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.7 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   .
   MICRO: Blood, urine cx NGTD, sputum mixed, no bronch samples sent
   .
   - CT chest/abdomen: Mod-larg b/l pleural effusions w/o enhancement.
   Collapsed LLL, nearly collapsed RLL. Central airways patent, no large
   PE, Enlarged PA ?pulm htn.
   Assessment and Plan
   Mr. [**Known lastname 4569**] is a 70 yo male with Type 2 DM, HTN, BPH, CHF, A. fib,
   admitted for tamponade, now s/p pericardial drain with PNA and possible
   CVA, and now transfered to the MICU for resp distress with incrased
   somulence requiring intubation.
   .
   # Hypercarbic resp failure: Patient less tachypnic and solumnolent
   (likely secondary to sedating medications). In addition he has improved
   mucus secretions/pulmonary status after bronch although scant
   secretions were found. Initial CXR showed a white out of his left lung,
   which may be secondary to mucus plugging that has since improved on
   ventilation. Pt is also being treated for an underlying PNA with zosyn,
   started [**1-10**]. At baseline the pt may have resp disease due to a long hx
   of tobacco use. New infection is possible, but pt has been afebrile and
   BP stable, so likely more an obstructive process. ABG improved to
   7.32/62/119 after intubation and continues to improve (mild alkalosis
   today on ABG that responded well to decreasing RR). Bronch and
   blood/urine/sputum samples so far unrevealing. CT chest/abd cuts showed
   large pleural effusions
   - Thoracentesis for pleural effusion management and diagnosis
   - Order serologies for concern of systemic processes (connective
   tissues vs. malignancy vs. viral)
   - Discontinue Zosyn (last day of 10 day course: [**2107-1-20**])
   - Hold further zyprexa and haldol
   - continue albuterol and ipratropium MDIs
   # Expressive aphasia/AM- Likely secondary to cardioembolic CVA per
   neuro. New worsening MS is concerning for either delirium vs new
   cerebral vascular event. MRI/MRA yesterday negative for acute processes
   so ?delirium/toxic metabolic in addition to recent cardioembolic stroke
   as etiology for his symptoms
   - Appreciate neurology following
   - Restarting anticoagulation given subtherapeutic INR today after
   planned procedures ([**Female First Name (un) 217**]/PEG) and no acute intracranial bleed seen on
   MRI
   - BP control
   #. A. fib/Bradycardia- new onset prior to OSH admission. Thought to be
   [**1-18**] his CHF and diuresis. Now in sinus. Seems to have runs of sinus
   brady as well as junctional rhythms. Has been anticoagulated due to
   recent cardioembolic stroke.
   - Follow-up Cards recs regarding heart rate management and ?serositis
   given pericardial tamponade as well
   - Consider restarting dig if needed
   - Continue PO Dilt via OG tube but ?decreasing dose given overnight
   tachybrady
 will discuss with Cards first
   - Atropine at bedside
   # Hypernatremia- Likely due to decreased free water intake in setting
   of dysphagia and lack of NGT and being on lasix. Free water deficit of
   ~1.5 liters today. Slightly improved from Na 151
 149. Received D5W at
   100/hr X1L after D5W with bicarb and 500cc of D5W in KCl repletion, D5W
   still running
   - PM lytes for correcting sodium
   .
   #. Dysphagia- Likely secondary to cardioembolic CVA. Pt likely
   aspirated which, in conjunction with large, ?gradual pleural effusions
   caused his acute respiratory distress issues. Pt has failed a swallow
   study.  Started tube feeds overnight after bronch.
   - Discuss with re: PEG tube placement now that INR subtherapeutic
   - Will restart anti-coagulation after procedures today
   .
   # CHF: Diastolic HF, had been tx for last month with lasix. Differing
   EFs, however, between OSH and inpatient ECHOs.
   - Hold lasix for now and continue to monitor clinically
   .
   # Pericardial effusion: Unclear etiology, cultures were negative. Could
   have been viral or autoimmune. Pt has some renal failure, but not
   likely severe enough to develop effusion [**1-18**] to this. Pt is now s/p
   pericardial drain. TSH was normal.
   - Monitor clinically for reaccumulation of pericardial effusion
   - Cardiology following and will discuss with them today
   .
   # DM2- On metformin at home.
   - ISS, follow fingersticks  especially on D5W
   .
   # HTN- Was on lopressor & nifedipine at home, then had been on
   amlodipine in-house when pt had prior PO access. BP now stable.
   Restarted amlodipine yesterday with good effect
   - Continue Diltiazem but consider decreasing dose (currently Dilt 60
   TID)
   # BPH/hematuria- Hematuria improving
   - Will need outpatient cystoscopy
   - Continue foley for now since intubated
   - Resume flomax prior to foley removal
   .
   # FEN: Turn off tube feeds for now given thoracentesis and PEG
   placement with GI today
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: subtheraputic INR
 will restart anticoagulation today after
   procedures
   Dispo: ICU for now
   ICU Care
   Nutrition: Tube feeds started after Bronch yesterday but held today in
   setting of upcoming procedures
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin
 subtherapeutic today so
   restart after procedures per above)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ATRIAL FIBRILLATION (AFIB)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 HYPERNATREMIA (HIGH SODIUM)
   ------ Protected Section ------
   Will attempt extubation today after procedures (thoracentesis, PEG tube
   placemen) as patient has history of not tolerating these in the recent
   past
   ------ Protected Section Addendum Entered By:[**Name (NI) 6273**] [**Name (NI) 8412**]
   on:[**2107-1-20**] 10:47 ------

2107-01-21 05:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Thoracentesis done
   tube feeds and hep restarted
   - Pleural fluid results: Exudate
   - PICC in
   - GI peg: not today due to INR ... but when? Will hold TF since
   midnight and heparin after 0400
   - Cards: brady likely vagal w/ETT. No further recs re effusion. Change
   standing Dilt to IV prn. Anticoag. EP f/u once stable for ablation
   - Zosyn dc'd
   - Na+ 148, got another L of D5W 100 mL/hr
   - F/u rheum labs:
   - SBT in AM (respiratory aware)
   - At 0200 put back on vent (had been on CPAP/PSV only since 0800 AM
   yesterday) for ABG 7.22/85/117. CXR: RLL haziness compared to [**1-20**];
   derecruited? Repeat ABG 7.38/58/133.
   Improved gas back on vent. But odd he had to go back to vent. Off abx 1
   day, WBC 8->13.4, CXR *might* be some RLL haziness.
   - UOP 20 cc/hr 0200-0500
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-19**] 03:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2107-1-20**] 05:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-21**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 61 (60 - 88) bpm
   BP: 130/44(68) {107/37(58) - 160/61(91)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,855 mL
                                                                    694 mL
   PO:
             TF:
                                                                    299 mL
                                                                     12 mL
   IVF:
                                                                  2,296 mL
                                                                    622 mL
   Blood products:
   Total out:
                                                                    846 mL
                                                                    200 mL
   Urine:
                                                                    846 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,009 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 279 (279 - 575) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/58/133/32/7
   Ve: 9 L/min
   PaO2 / FiO2: 332
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   515 K/uL
   8.8 g/dL
   176 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   16 mg/dL
   110 mEq/L
   146 mEq/L
   29.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2107-1-19**]  04:26 PM
                             [**2107-1-19**]  10:40 PM
                             [**2107-1-20**]  04:12 AM
                             [**2107-1-20**]  04:25 AM
                             [**2107-1-20**]  05:37 AM
                             [**2107-1-20**]  08:27 AM
                             [**2107-1-20**]  04:08 PM
                             [**2107-1-21**]  01:05 AM
                             [**2107-1-21**]  01:26 AM
                             [**2107-1-21**]  03:17 AM
   WBC
   7.9
   13.4
   Hct
   25.0
   27.0
   29.4
   Plt
   450
   515
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   37
   35
   36
   37
   36
   Glucose
   155
   138
   120
   176
   Other labs: PT / PTT / INR:15.2/142.0/1.3, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Pleural Fluid studies:
   Protein  2.3
   Glucose  146
   LD(LDH): 157
   Amylase: 27
   WBC  400
   RBC  [**Numeric Identifier 13066**]
   pleural fluid LDH/serum LDH >0.6
   157/220 = 0.71
   Rheum labs:
   ANCA
   [**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) 13067**]: 138
   RheuFac: 8
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ATRIAL FIBRILLATION (AFIB)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 HYPERNATREMIA (HIGH SODIUM)
   Mr. [**Known lastname 4569**] is a 70 yo male with Type 2 DM, HTN, BPH, CHF, A. fib,
   admitted for tamponade, now s/p pericardial drain with PNA and possible
   CVA, and now transfered to the MICU for resp distress with incrased
   somulence requiring intubation.
   .
   # Hypercarbic resp failure: Patient less tachypnic and solumnolent
   (likely secondary to sedating medications). In addition he has improved
   mucus secretions/pulmonary status after bronch although scant
   secretions were found. Initial CXR showed a white out of his left lung,
   which may be secondary to mucus plugging that has since improved on
   ventilation. Pt is also being treated for an underlying PNA with zosyn,
   started [**1-10**]. At baseline the pt may have resp disease due to a long hx
   of tobacco use. New infection is possible, but pt has been afebrile and
   BP stable, so likely more an obstructive process. ABG improved to
   7.32/62/119 after intubation and continues to improve (mild alkalosis
   today on ABG that responded well to decreasing RR). Bronch and
   blood/urine/sputum samples so far unrevealing. CT chest/abd cuts showed
   large pleural effusions
   - Thoracentesis for pleural effusion management and diagnosis
   - Order serologies for concern of systemic processes (connective
   tissues vs. malignancy vs. viral)
   - Discontinue Zosyn (last day of 10 day course: [**2107-1-20**])
   - Hold further zyprexa and haldol
   - continue albuterol and ipratropium MDIs
   # Expressive aphasia/AM- Likely secondary to cardioembolic CVA per
   neuro. New worsening MS is concerning for either delirium vs new
   cerebral vascular event. MRI/MRA yesterday negative for acute processes
   so ?delirium/toxic metabolic in addition to recent cardioembolic stroke
   as etiology for his symptoms
   - Appreciate neurology following
   - Restarting anticoagulation given subtherapeutic INR today after
   planned procedures ([**Female First Name (un) 217**]/PEG) and no acute intracranial bleed seen on
   MRI
   - BP control
   #. A. fib/Bradycardia- new onset prior to OSH admission. Thought to be
   [**1-18**] his CHF and diuresis. Now in sinus. Seems to have runs of sinus
   brady as well as junctional rhythms. Has been anticoagulated due to
   recent cardioembolic stroke.
   - Follow-up Cards recs regarding heart rate management and ?serositis
   given pericardial tamponade as well
   - Consider restarting dig if needed
   - Continue PO Dilt via OG tube but ?decreasing dose given overnight
   tachybrady
 will discuss with Cards first
   - Atropine at bedside
   # Hypernatremia- Likely due to decreased free water intake in setting
   of dysphagia and lack of NGT and being on lasix. Free water deficit of
   ~1.5 liters today. Slightly improved from Na 151
 149. Received D5W at
   100/hr X1L after D5W with bicarb and 500cc of D5W in KCl repletion, D5W
   still running
   - PM lytes for correcting sodium
   .
   #. Dysphagia- Likely secondary to cardioembolic CVA. Pt likely
   aspirated which, in conjunction with large, ?gradual pleural effusions
   caused his acute respiratory distress issues. Pt has failed a swallow
   study.  Started tube feeds overnight after bronch.
   - Discuss with re: PEG tube placement now that INR subtherapeutic
   - Will restart anti-coagulation after procedures today
   .
   # CHF: Diastolic HF, had been tx for last month with lasix. Differing
   EFs, however, between OSH and inpatient ECHOs.
   - Hold lasix for now and continue to monitor clinically
   .
   # Pericardial effusion: Unclear etiology, cultures were negative. Could
   have been viral or autoimmune. Pt has some renal failure, but not
   likely severe enough to develop effusion [**1-18**] to this. Pt is now s/p
   pericardial drain. TSH was normal.
   - Monitor clinically for reaccumulation of pericardial effusion
   - Cardiology following and will discuss with them today
   .
   # DM2- On metformin at home.
   - ISS, follow fingersticks  especially on D5W
   .
   # HTN- Was on lopressor & nifedipine at home, then had been on
   amlodipine in-house when pt had prior PO access. BP now stable.
   Restarted amlodipine yesterday with good effect
   - Continue Diltiazem but consider decreasing dose (currently Dilt 60
   TID)
   # BPH/hematuria- Hematuria improving
   - Will need outpatient cystoscopy
   - Continue foley for now since intubated
   - Resume flomax prior to foley removal
   .
   # FEN: Turn off tube feeds for now given thoracentesis and PEG
   placement with GI today
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: subtheraputic INR
 will restart anticoagulation today after
   procedures
   Dispo: ICU for now
   ICU Care
   Nutrition: Tube feeds started after Bronch yesterday but held today in
   setting of upcoming procedures
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin
 subtherapeutic today so
   restart after procedures per above)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   20 Gauge - [**2107-1-19**] 01:12 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-22 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IR placed PEG tube without complications; able to take meds through
   PEG right away, can start tube feeding tomorrow
   - [**Doctor First Name **] was positive, titer pending; ANCA negative, RF wnl
   - negative cx on pleural fluid
   - restarted D5W at 100 cc/hr post-PEG, for Na 148
   - Hct drop 29 -> 24 (WBC and plts down too), but +hematuria this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-22**] 12:01 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-22**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 58 (51 - 73) bpm
   BP: 130/47(71) {109/34(54) - 157/61(89)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,968 mL
                                                                    780 mL
   PO:
             TF:
                                                                     12 mL
   IVF:
                                                                  2,836 mL
                                                                    780 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    170 mL
   Urine:
                                                                    745 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,223 mL
                                                                    610 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/47/116/29/9
   Ve: 7.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   348 K/uL
   8.0 g/dL
   128 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   15 mg/dL
   112 mEq/L
   147 mEq/L
   24.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2107-1-20**]  04:25 AM
                             [**2107-1-20**]  05:37 AM
                             [**2107-1-20**]  08:27 AM
                             [**2107-1-20**]  04:08 PM
                             [**2107-1-21**]  01:05 AM
                             [**2107-1-21**]  01:26 AM
                             [**2107-1-21**]  03:17 AM
                             [**2107-1-21**]  07:56 AM
                             [**2107-1-21**]  04:11 PM
                             [**2107-1-22**]  02:31 AM
   WBC
   13.4
   8.3
   Hct
   27.0
   29.4
   24.4
   Plt
   515
   348
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   37
   35
   36
   37
   36
   34
   Glucose
   120
   176
   116
   128
   Other labs: PT / PTT / INR:13.7/95.1/1.2, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220
   IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Imaging: [**1-21**] CXR: As compared to the previous radiograph, there is
   status post
   thoracocentesis. The left pleural effusion has slightly decreased in
   extent.
   The right pleural effusion has minimally increased in extent. Unchanged
   is
   the cardiac silhouette and the evidence of the basal atelectasis.
   There is no safe evidence of pneumothorax.
   The monitoring and support devices are in unchanged position.
   Microbiology: [**1-21**] Sputum:    GRAM STAIN (Final [**2107-1-21**]): >25 PMNs and
   <10 epithelial cells/100X field. NO MICROORGANISMS SEEN.
   [**1-20**] Pleural fluid: GRAM STAIN (Final [**2107-1-20**]): NO POLYMORPHONUCLEAR
   LEUKOCYTES SEEN. NO MICROORGANISMS SEEN.
   Assessment and Plan
   70M with Type 2 DM, HTN, CHF, AF, s/p pericardial drain for idiopathic
   effusion, admitted to MICU with PNA, large bilateral pleural effusions,
   possible CVA, resp distress with incrased somulence requiring
   intubation.
   # Hypercarbic resp failure: Had been doing well on CPAP/PSV from 0800
   AM [**1-20**] to 0200 [**1-21**], but with downward tending minute volume. At 0200
   put back on vent for ABG 7.22/85/117. CXR: RLL haziness compared to
   [**1-20**]; derecruited? Something brewing? No PTX. Ride side was where
   effusion tapped. Pleural effusion looks larger too. (Off Zosyn 1 day).
   Repeat ABG was 7.38/58/133. Note elevated WBC (8->13).
   -          Restarted Zosyn in case this an early pneumonia about to
   reblossom
   -          Get sputum cx
   -          If sputum cx negative, consider steroids, since pericardial
   and parapneumonic effusions c/w autoimmune process.
   -          F/u rheum labs.
   # Expressive aphasia/AMS- Likely secondary to cardioembolic CVA per
   neuro. MRI/MRA negative for acute processes so ?delirium/toxic
   metabolic in addition to cardioembolic stroke as etiology. Note off
   Heparin today pending peg tube
   - BP control
   #. AF / Bradycardia- Looks like tachy-brady syndrome. After D/c
   standing Dilt per cards recs, patient had frequent PVCs o/n, bradys to
   40s and 30s. (Prior bradys had been seen as possibly vagal w/ETT).
   -          Anticoagulate.
   -          EP f/u once stable for ablation &pacer
   -          Atropine and pacer pads at bedside
   # Hypernatremia-. Received D5W at 100/hr X1L after D5W with bicarb and
   500cc of D5W in KCl repletion, Na+ went from 149->146.
   - PM lytes for correcting sodium
   - Hang a second liter of D5W
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study.  On tube feeds, though held for peg.
   - PEG tube placement today
   - Restart anti-coagulation after
    # Pericardial effusion: Unclear etiology, cultures were negative.
   - Monitor clinically for reaccumulation
   - Cardiology: no further recs
   # DM2- On metformin at home.
   - ISS, follow fingersticks  especially on D5W
   # HTN- Continue amlodipine
   # BPH/hematuria- Hematuria improving
   - Will need outpatient cystoscopy
   - Continue foley for now since intubated
   - Resume flomax prior to foley removal
   FEN: Turn off tube feeds for now given thoracentesis and PEG placement
   with GI
   PPx: subtheraputic INR
 will restart anticoagulation today after
   procedures; H2 blocker
   Glycemic control: RISS
   Access:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   20 Gauge - [**2107-1-19**] 01:12 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-22 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Thoracentesis done
   - Nml post-procedure CXR, tube feeds and hep restarted
   - Pleural fluid results: Exudate
   Protein  2.3
   Glucose  146
   LD(LDH): 157
   Amylase: 27
   WBC  400
   RBC  [**Numeric Identifier 13066**]
   pleural fluid LDH/serum LDH >0.6
   157/220 = 0.71
   - PICC in
   - GI peg: not today due to INR ... but when? Will hold TF since
   midnight and heparin after 0400
   - Cards: brady likely vagal w/ETT. No further recs re effusion. Change
   standing Dilt to IV prn. Anticoag. EP f/u once stable for ablation
   - Zosyn dc'd
   - Na+ 148, got another L of D5W 100 mL/hr
   - F/u rheum labs:
   Hapto: 138
   RheuFac: 8
   - SBT in AM (respiratory aware)
   - At 0200 put back on vent (had been on CPAP/PSV only since 0800 AM
   yesterday) for ABG 7.22/85/117. CXR: RLL haziness compared to [**1-20**];
   derecruited? Something brewing? (Off abx 1 day). Repeat ABG
   7.38/58/133. Note elevated WBC (8->13).
   - UOP 20 cc/hr 0200-0500
   [**1-21**]
   - IR placed PEG tube without complications; able to take meds through
   PEG right away, can start tube feeding tomorrow
   - [**Doctor First Name **] was positive, titer pending; ANCA negative, RF wnl
   - negative cx on pleural fluid
   - restarted D5W at 100 cc/hr post-PEG, for Na 148
   - Hct drop 29 -> 24 (WBC and plts down too), but +hematuria this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-22**] 12:01 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-22**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 58 (51 - 73) bpm
   BP: 130/47(71) {109/34(54) - 157/61(89)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,968 mL
                                                                    802 mL
   PO:
             TF:
                                                                     12 mL
   IVF:
                                                                  2,836 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    170 mL
   Urine:
                                                                    745 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,223 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/47/116/29/9
   Ve: 7.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   348 K/uL
   8.0 g/dL
   128 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   15 mg/dL
   112 mEq/L
   147 mEq/L
   24.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2107-1-20**]  04:25 AM
                             [**2107-1-20**]  05:37 AM
                             [**2107-1-20**]  08:27 AM
                             [**2107-1-20**]  04:08 PM
                             [**2107-1-21**]  01:05 AM
                             [**2107-1-21**]  01:26 AM
                             [**2107-1-21**]  03:17 AM
                             [**2107-1-21**]  07:56 AM
                             [**2107-1-21**]  04:11 PM
                             [**2107-1-22**]  02:31 AM
   WBC
   13.4
   8.3
   Hct
   27.0
   29.4
   24.4
   Plt
   515
   348
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   37
   35
   36
   37
   36
   34
   Glucose
   120
   176
   116
   128
   Other labs: PT / PTT / INR:13.7/95.1/1.2, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220
   IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   70M with Type 2 DM, HTN, CHF, AF, s/p pericardial drain for idiopathic
   effusion, admitted to MICU with PNA, large bilateral pleural effusions,
   possible CVA, resp distress with incrased somulence requiring
   intubation.
   .
   # Hypercarbic resp failure: Had been doing well on CPAP/PSV from 0800
   AM [**1-20**] to 0200 [**1-21**], but with downward tending minute volume. At 0200
   put back on vent for ABG 7.22/85/117. CXR: RLL haziness compared to
   [**1-20**]; derecruited? Something brewing? No PTX. Ride side was where
   effusion tapped. Pleural effusion looks larger too. (Off Zosyn 1 day).
   Repeat ABG was 7.38/58/133. Note elevated WBC (8->13).
   -          Restarted Zosyn in case this an early pneumonia about to
   reblossom
   -          Get sputum cx
   -          If sputum cx negative, consider steroids, since pericardial
   and parapneumonic effusions c/w autoimmune process.
   -          F/u rheum labs.
   # Expressive aphasia/AMS- Likely secondary to cardioembolic CVA per
   neuro. MRI/MRA negative for acute processes so ?delirium/toxic
   metabolic in addition to cardioembolic stroke as etiology. Note off
   Heparin today pending peg tube
   - BP control
   #. AF / Bradycardia- Looks like tachy-brady syndrome. After D/c
   standing Dilt per cards recs, patient had frequent PVCs o/n, bradys to
   40s and 30s. (Prior bradys had been seen as possibly vagal w/ETT).
   -          Anticoagulate.
   -          EP f/u once stable for ablation &pacer
   -          Atropine and pacer pads at bedside
   # Hypernatremia-. Received D5W at 100/hr X1L after D5W with bicarb and
   500cc of D5W in KCl repletion, Na+ went from 149->146.
   - PM lytes for correcting sodium
   - Hang a second liter of D5W
   .
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study.  On tube feeds, though held for peg.
   - PEG tube placement today
   - Restart anti-coagulation after
   # Pericardial effusion: Unclear etiology, cultures were negative.
   - Monitor clinically for reaccumulation
   - Cardiology: no further recs
   .
   # DM2- On metformin at home.
   - ISS, follow fingersticks  especially on D5W
   .
   # HTN- Continue amlodipine
   # BPH/hematuria- Hematuria improving
   - Will need outpatient cystoscopy
   - Continue foley for now since intubated
   - Resume flomax prior to foley removal
   .
   # FEN: Turn off tube feeds for now given thoracentesis and PEG
   placement with GI
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: subtheraputic INR
 will restart anticoagulation today after
   procedures
   Dispo: ICU for now
    Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   20 Gauge - [**2107-1-19**] 01:12 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-22 08:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Resp failure from ? aspiration x 3 d
   [**Female First Name (un) **] 2 days ago exudative
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-22**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-22**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (96.9
   HR: 63 (51 - 73) bpm
   BP: 161/58(94) {109/38(59) - 161/61(94)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,965 mL
                                                                  1,338 mL
   PO:
             TF:
                                                                     12 mL
   IVF:
                                                                  2,833 mL
                                                                  1,338 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    215 mL
   Urine:
                                                                    745 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,220 mL
                                                                  1,123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 30 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 9.9 L/min
   Physical Examination
   Intubated, arousable, not following commands
   Lungs decreased BS
   Hrt rrr, loud SEM
   Abd benign, g-tube placed
   Extreme trace edema
   Labs / Radiology
   8.0 g/dL
   348 K/uL
   128 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   15 mg/dL
   112 mEq/L
   147 mEq/L
   24.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2107-1-20**]  04:25 AM
                             [**2107-1-20**]  05:37 AM
                             [**2107-1-20**]  08:27 AM
                             [**2107-1-20**]  04:08 PM
                             [**2107-1-21**]  01:05 AM
                             [**2107-1-21**]  01:26 AM
                             [**2107-1-21**]  03:17 AM
                             [**2107-1-21**]  07:56 AM
                             [**2107-1-21**]  04:11 PM
                             [**2107-1-22**]  02:31 AM
   WBC
   13.4
   8.3
   Hct
   27.0
   29.4
   24.4
   Plt
   515
   348
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   37
   35
   36
   37
   36
   34
   Glucose
   120
   176
   116
   128
   Other labs: PT / PTT / INR:13.7/95.1/1.2, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220
   IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   CXR
 supine, large effusions
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 will try to diurese, if unsuccessful will
   perform bilat [**Year (4 digits) **]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 once starts to diurese or
   after [**Last Name (LF) **], [**First Name3 (LF) **] do SBT
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 recent echo showed
   recovery of EF and no recurrence of effusion
 ATRIAL FIBRILLATION (AFIB) / ? atrial thrombus
 cont heparin,
   eventual conversion to coumadin
 HYPERNATREMIA (HIGH SODIUM) -   follow, cont H2O
   ICU Care
   Nutrition: NPO for possible extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   20 Gauge - [**2107-1-19**] 01:12 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:    on IV heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :    ICU
   Total time spent:    41

2107-01-23 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-1-22**] 05:21 PM
 INVASIVE VENTILATION - START [**2107-1-23**] 04:06 AM
   .
   [**1-22**]
   - [**Doctor First Name **] titer still pending
   - SBT and diureses with lasix gtt --> did well, so extubated
   - Hep gtt w/ low PTT goal for possible thoracentesis today, then
   returned to [**Location 810**] parameters
   - EBV pending, CMV neg IgG and IgM
   - Na 147 --> 145 with free water flushes of PEG TF
   .
   [**1-23**]:
   - Hypertensive SBP190-200s, Dilt 60X1, aphasic/labored
   breathing/diaphoretic --> ABG 7.21/81/93/34. Reintubated for
   respiratory acidosis/hypercarbia
   - EKG unchanged from priors; CXR relatively unchanged
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-22**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 1,200 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2107-1-22**] 08:00 AM
   Furosemide (Lasix) - [**2107-1-22**] 10:34 AM
   Metoprolol - [**2107-1-22**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 48 (48 - 108) bpm
   BP: 119/43(62) {119/43(62) - 199/87(128)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,259 mL
                                                                    411 mL
   PO:
             TF:
   IVF:
                                                                  2,079 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                    635 mL
   Urine:
                                                                  3,090 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -831 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 425 (421 - 435) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 27.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.52/36/84.[**Numeric Identifier 1000**]/32/5
   Ve: 7.1 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, PEG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   321 K/uL
   7.9 g/dL
   82 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.7 mEq/L
   10 mg/dL
   108 mEq/L
   146 mEq/L
   23.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2107-1-21**]  07:56 AM
                             [**2107-1-21**]  04:11 PM
                             [**2107-1-22**]  02:31 AM
                             [**2107-1-22**]  09:18 AM
                             [**2107-1-22**]  04:06 PM
                             [**2107-1-22**]  04:35 PM
                             [**2107-1-23**]  02:12 AM
                             [**2107-1-23**]  03:32 AM
                             [**2107-1-23**]  06:00 AM
                             [**2107-1-23**]  06:16 AM
   WBC
   8.3
   10.7
   8.4
   Hct
   24.4
   26.1
   28.2
   23.7
   Plt
   348
   349
   321
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   34
   31
   34
   30
   Glucose
   116
   128
   82
   Other labs: PT / PTT / INR:13.5/59.9/1.2, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220
   IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   70M with Type 2 DM, HTN, CHF, AF, s/p pericardial drain for idiopathic
   effusion, admitted to MICU with PNA, large bilateral pleural effusions,
   possible CVA, resp distress with incrased somulence requiring
   intubation.
   .
   # Hypercarbic resp failure: Had been doing well yesterday and weaned to
   Pressure Support 5, PEEP 5. Sedation turned off and patient extubated
   without issues. Overnight, however, became progressively hypertensive,
   increased work of breathing/diaphoretic and found to be in respiratory
   acidosis/hypercarbia. Reintubated ~10 hours after extubation at 3-4am.
   * Etiology for repeat episode of respiratory distress unclear but
   likely due to significant, ongoing pleural effusions in the setting of
   agitation, hypertension leading to possible flash pulmonary edema.
   - Will aggressively diurese today with Lasix gtt, goal -2L (until
   Creatinine bumps)
   - If insufficient diuresis of pleural effusions, will consider
   therapeutic bilateral thoracenteses
   - With next extubation, will attempt to keep patient calm/oriented and
   aggressively control blood pressures with IV nitroglycerin/hydralazine
   as needed to prevent flash pulmonary edema
   - Follow-up rheum labs
 [**Doctor First Name **] positive, titer still pending this morning
   - Follow-up sputum culture; gram stain negative
   - If cultures remain negative, may consider steroids since pericardial
   and parapneumonic effusions consistent with exudative process (could be
   collagen vascular disease vs. lung infection vs. malignancy vs. PE)
   .
   # Expressive aphasia/AMS- Likely secondary to cardioembolic CVA per
   neuro. MRI/MRA negative for acute processes so ?delirium/toxic
   metabolic in addition to cardioembolic stroke as etiology.
   - Back on Heparin gtt with normal PTT goals for now
   - Blood pressure control
   #. AF / Bradycardia- Looks like tachy-brady syndrome. After D/c
   standing Dilt per cards recs, patient had frequent PVCs and bradys to
   40s and 30s, but no more episodes in the last 48 hours. (Prior bradys
   had been seen as possibly vagal w/ETT).
   - Continue anticoagulation with heparin gtt per above
 eventual bridge
   to coumadin will be needed
   - EP f/u once stable for ablation +/- pacer
   - Atropine and pacer pads at bedside
   # Hypernatremia- Stable in the 145-147 range
   - Patient receiving free water with flushes for PEG tube feeds; will
   increase today in setting of slightly elevated serum sodium
   - PM lytes given ongoing Lasix diuresis
   .
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study; PEG placed and was used starting yesterday
   - Continuing heparin gtt for now
   # Pericardial effusion: Unclear etiology, cultures were negative.
   - Monitor clinically for reaccumulation
   - Cardiology: no further recs
   .
   # DM2- On metformin at home.
   - ISS, follow fingersticks
   .
   # HTN- Continue amlodipine
   # BPH/hematuria- Hematuria resolved
   - Will need outpatient cystoscopy
   - Continue foley for now since re-intubated
   - Resume flomax prior to foley removal
   # FEN: PEG tube feeds, replete electrolytes PRN
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: heparin gtt with low goal PTT for now
   Dispo: ICU for now
    Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Arterial line
   PICC line
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-23 08:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   agitated, hypertensive
   7.21/81/93 10 hours post extubation
 re-intubated
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-1-22**] 05:21 PM
 INVASIVE VENTILATION - START [**2107-1-23**] 04:06 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-22**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 1,200 units/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2107-1-22**] 10:34 AM
   Metoprolol - [**2107-1-22**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-23**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 57 (48 - 108) bpm
   BP: 156/52(80) {119/43(62) - 199/87(128)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,259 mL
                                                                    517 mL
   PO:
             TF:
   IVF:
                                                                  2,079 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                  1,035 mL
   Urine:
                                                                  3,090 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -831 mL
                                                                   -517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 425 (421 - 435) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 27.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/36/84.[**Numeric Identifier 1000**]/28/5
   Ve: 11.2 L/min
   PaO2 / FiO2: 168
   Physical Examination
   intubated, sedated, moving though nothing purposeful
   hrt rrr
   lungs decreased bs
s, no ewheezes
   abd benign
   extreme no edema
   Labs / Radiology
   7.9 g/dL
   321 K/uL
   115 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   12 mg/dL
   110 mEq/L
   147 mEq/L
   23.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2107-1-21**]  07:56 AM
                             [**2107-1-21**]  04:11 PM
                             [**2107-1-22**]  02:31 AM
                             [**2107-1-22**]  09:18 AM
                             [**2107-1-22**]  04:06 PM
                             [**2107-1-22**]  04:35 PM
                             [**2107-1-23**]  02:12 AM
                             [**2107-1-23**]  03:32 AM
                             [**2107-1-23**]  06:00 AM
                             [**2107-1-23**]  06:16 AM
   WBC
   8.3
   10.7
   8.4
   Hct
   24.4
   26.1
   28.2
   23.7
   Plt
   348
   349
   321
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   TCO2
   34
   31
   34
   30
   Glucose
   116
   128
   82
   115
   Other labs: PT / PTT / INR:13.8/94.5/1.2, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220
   IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   CXR worse diffuse infiltrates
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 will continue to diurese, if unsuccessful
   will perform bilat thoras
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 failed extubation likely
   due to effusions, agitation and HTN leading to pulmonary edema,
   continue diuresis, if fails consider thoras
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 recent echo showed
   recovery of EF and no recurrence of effusion
 ATRIAL FIBRILLATION (AFIB) / ? atrial thrombus
 cont heparin,
   eventual conversion to coumadin
 HYPERNATREMIA (HIGH SODIUM) -   follow, cont H2O
   anemia
 repeat to confirm
   ICU Care
   Nutrition: resume TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:  on IV heparin, boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent:   38

2107-01-24 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2107-1-23**] 03:15 PM
   - [**Doctor First Name **] titer still pending
   - EBV pending, CMV neg IgG and IgM
   - Hypertensive SBP190-200s, Dilt 60X1, aphasic/labored
   breathing/diaphoretic --> ABG 7.21/81/93/34. Reintubated.
   - EKG unchanged from priors
   - At 1600, only negative 300 cc on Lasix gtt of 4 mg/hr. Increased to 8
   mg/hr.
   - small (0.5 cm) abscess in R groin, non-erythematous, pus expressed
   spontaneously
   - at 2100, only negative 40 cc, Lasix gtt increased from 8-12 mg/hr
   - at 0100 better UOP, 100-200 cc/hr. K+ repleted.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-22**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-24**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 71 (48 - 84) bpm
   BP: 150/49(76) {106/39(55) - 165/53(86)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,401 mL
                                                                    907 mL
   PO:
             TF:
                                                                    294 mL
                                                                    184 mL
   IVF:
                                                                  1,127 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                    940 mL
   Urine:
                                                                  2,470 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -69 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 36 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.52/36/84.[**Numeric Identifier 1000**]/30/5
   Ve: 6.9 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   8.4 g/dL
   125 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   10 mg/dL
   106 mEq/L
   142 mEq/L
   25.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2107-1-22**]  04:06 PM
                             [**2107-1-22**]  04:35 PM
                             [**2107-1-23**]  02:12 AM
                             [**2107-1-23**]  03:32 AM
                             [**2107-1-23**]  06:00 AM
                             [**2107-1-23**]  06:16 AM
                             [**2107-1-23**]  10:00 AM
                             [**2107-1-23**]  02:54 PM
                             [**2107-1-23**]  09:44 PM
                             [**2107-1-24**]  02:11 AM
   WBC
   10.7
   8.4
   8.4
   Hct
   28.2
   23.7
   25.7
   25.1
   Plt
   349
   321
   293
   Cr
   0.6
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   31
   34
   30
   Glucose
   82
   115
   129
   115
   129
   125
   Other labs: PT / PTT / INR:13.5/52.6/1.2, Differential-Neuts:70.8 %,
   Lymph:21.0 %, Mono:5.2 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220
   IU/L, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   70M with Type 2 DM, HTN, CHF, AF, s/p pericardial drain for idiopathic
   effusion, admitted to MICU with PNA, large bilateral pleural effusions,
   possible CVA, resp distress with incrased somulence requiring
   intubation.
   .
   # Hypercarbic resp failure: Had been doing well yesterday and weaned to
   Pressure Support 5, PEEP 5. Sedation turned off and patient extubated
   without issues. Overnight, however, became progressively hypertensive,
   increased work of breathing/diaphoretic and found to be in respiratory
   acidosis/hypercarbia. Reintubated ~10 hours after extubation at 3-4am.
   * Etiology for repeat episode of respiratory distress unclear but
   likely due to significant, ongoing pleural effusions in the setting of
   agitation, hypertension leading to possible flash pulmonary edema.
   - Will aggressively diurese today with Lasix gtt, goal -2L (until
   Creatinine bumps)
   - If insufficient diuresis of pleural effusions, will consider
   therapeutic bilateral thoracenteses
   - With next extubation, will attempt to keep patient calm/oriented and
   aggressively control blood pressures with IV nitroglycerin/hydralazine
   as needed to prevent flash pulmonary edema
   - Follow-up rheum labs
 [**Doctor First Name **] positive, titer still pending this morning
   - Follow-up sputum culture; gram stain negative
   - If cultures remain negative, may consider steroids since pericardial
   and parapneumonic effusions consistent with exudative process (could be
   collagen vascular disease vs. lung infection vs. malignancy vs. PE)
   .
   # Expressive aphasia/AMS- Likely secondary to cardioembolic CVA per
   neuro. MRI/MRA negative for acute processes so ?delirium/toxic
   metabolic in addition to cardioembolic stroke as etiology.
   - Back on Heparin gtt with normal PTT goals for now
   - Blood pressure control
   #. AF / Bradycardia- Looks like tachy-brady syndrome. After D/c
   standing Dilt per cards recs, patient had frequent PVCs and bradys to
   40s and 30s, but no more episodes in the last 48 hours. (Prior bradys
   had been seen as possibly vagal w/ETT).
   - Continue anticoagulation with heparin gtt per above
 eventual bridge
   to coumadin will be needed
   - EP f/u once stable for ablation +/- pacer
   - Atropine and pacer pads at bedside
   # Hypernatremia- Stable in the 145-147 range
   - Patient receiving free water with flushes for PEG tube feeds; will
   increase today in setting of slightly elevated serum sodium
   - PM lytes given ongoing Lasix diuresis
   .
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study; PEG placed and was used starting yesterday
   - Continuing heparin gtt for now
   # Pericardial effusion: Unclear etiology, cultures were negative.
   - Monitor clinically for reaccumulation
   - Cardiology: no further recs
   .
   # DM2- On metformin at home.
   - ISS, follow fingersticks
   .
   # HTN- Continue amlodipine
   # BPH/hematuria- Hematuria resolved
   - Will need outpatient cystoscopy
   - Continue foley for now since re-intubated
   - Resume flomax prior to foley removal
   # FEN: PEG tube feeds, replete electrolytes PRN
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: heparin gtt with low goal PTT for now
   Dispo: ICU for now
    Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Arterial line
   PICC line
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-23**] 09:45 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-25 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2107-1-24**] 01:15 PM
   .
   - EBV Serologies c/w past infection (IgG positive, IgM negative)
   - PM lytes stable. Creatinine 0.7. Tn 0.18 (was 0.20) but CK's flat
   - TTE: Unchanged from last week's with regards to pericardial effusions
   - [**Doctor First Name **] titer returned at 1:80
   - Thoracentesis deferred until tomorrow; going to continue lasix gtt
   overnight, although drip rate decreased temporarily today for systolics
   in the 90s. Ended up about 1 liter positive for the day
   - Attempted pressure support yesterday for ~ 2hours, developed
   increased work of breathing and hypercarbia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-22**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,375 units/hour
   Furosemide (Lasix) - 10 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2107-1-25**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 70 (59 - 89) bpm
   BP: 115/49(66) {92/40(56) - 156/91(95)} mmHg
   RR: 16 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.4 kg (admission): 86 kg
             Total In:
                                                                  3,615 mL
                                                                  1,164 mL
   PO:
             TF:
                                                                  1,318 mL
                                                                    559 mL
   IVF:
                                                                  1,406 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    710 mL
   Urine:
                                                                  2,570 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,045 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 320 (320 - 320) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/46/99.[**Numeric Identifier 508**]/30/7
   Ve: 8.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, interacts with family when propofol
   held for exams
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   273 K/uL
   8.0 g/dL
   150 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   102 mEq/L
   140 mEq/L
   24.5 %
   8.7 K/uL
        [image002.jpg]
   CK 88, 20, 23    MB 3    Trop 0.10, 0.20
                             [**2107-1-23**]  06:16 AM
                             [**2107-1-23**]  10:00 AM
                             [**2107-1-23**]  02:54 PM
                             [**2107-1-23**]  09:44 PM
                             [**2107-1-24**]  02:11 AM
                             [**2107-1-24**]  08:37 AM
                             [**2107-1-24**]  01:10 PM
                             [**2107-1-24**]  02:58 PM
                             [**2107-1-25**]  02:58 AM
                             [**2107-1-25**]  03:12 AM
   WBC
   8.4
   8.7
   Hct
   25.7
   25.1
   24.5
   Plt
   293
   273
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   TropT
   0.20
   0.18
   TCO2
   30
   33
   34
   34
   Glucose
   129
   115
   129
   125
   168
   150
   Other labs: PT / PTT / INR:13.5/37.9/1.2, CK / CKMB /
   Troponin-T:20/3/0.18, Differential-Neuts:70.8 %, Lymph:21.0 %, Mono:5.2
   %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:220 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   70M DM CHF AF p/w pericardial (drained) and pulmonary (diuresing)
   effusions, unclear etiologies, extubated then intubated for hypercarbic
   respiratory failure
   .
   # Hypercarbic resp failure: Etiology for repeat episode of respiratory
   distress unclear. Occurred in setting of these chronically and still
   poorly explained bilateral pulmonary effusions. Tired quickly on
   pressure support yesterday, ECHO unchanged from prior.
   - Continue Lasix gtt for attempted diuresis
   - Will discuss with Interventional Pulmonary pleural effusion removal
   options which should help with extubation and maintaining
   self-ventilation
   # Bilateral pulmonary effusions: Likely one process driving both the
   pericardial and pulmonary effusions. [**Doctor First Name **] positive but titer 1:80,
   speckled likely non-specific
   - Consult Rheumatology
   - Discuss with IP per above (therapeutic thoracentesis vs. drain
   placement)
   - CT chest after therapeutic [**Female First Name (un) 217**] or sufficient drainage to assess
   size of effusions
   - Continue Lasix gtt per above although decreasing urine output to
   Lasix and systolic blood pressures low yesterday
   # Hypernatremia: Working hypothesis is this resulted from earlier fluid
   management decisions. Now resolved
   - Decrease free water with tube feeds
   # Expressive Aphasia: In setting of runs of A Fib, with known atrial
   thrombus, and MRI/MRA showing sequelae of cardioembolic strokes.
   - On Heparin gtt, PTT 52.6
   - Good blood pressure control
   #. AF / Bradycardia: Has been in sinus rhythm for past two days. Note
   thrombus in atrium.
   - Continue anticoagulation with Heparin gtt -- eventual bridge to
   Coumadin
   - EP f/u once stable for ablation +/- pacer
   - Atropine and pacer pads at bedside
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study.
   - PEG tube feeds
   # Pericardial effusion: Unclear etiology, cultures were negative.  ECHO
   yesterday showed stable, minimal pericardial effusions
   # DM2- On metformin at home.
   - ISS, follow fingersticks
   .
   # HTN- Continue amlodipine and home lopressor
   - Will consider adding Captopril as needed
   # BPH/hematuria- Hematuria resolved
   - Outpatient cystoscopy
   - Continue Foley while intubated
   - Resume Flomax prior to Foley removal
   # FEN: PEG tube feeds, replete electrolytes PRN
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: heparin gtt with low goal PTT for now
   Dispo: ICU for now
    Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Arterial line
   PICC line
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-25**] 02:26 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-19**] 12:00 PM
   PICC Line - [**2107-1-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-26 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2107-1-25**] 08:44 AM
 THORACENTESIS - At [**2107-1-25**] 06:12 PM
 PAN CULTURE - At [**2107-1-25**] 11:05 PM
 FEVER - 101.4
F - [**2107-1-25**] 08:00 PM
   [**1-25**]:
   - Therapeutic thoracentesis of left, took off 1.7L
   - Restarted heparin gtt after thoracentesis
   - ?rheum consult called today - needs to be called tomorrow
   - ESR elev at 139, CRP 134.4
   - Attempting to wean vent
   - Therapeutic [**Female First Name (un) 217**] of left side took off 1.7L, plan for [**Female First Name (un) 217**] of right
   tomorrow
   Pleural Fluid: pH 7.49
   Protein 2.6, Glucose 157
   Creatinine 0.7, LDH 152
   Amylase: 26, Albumin: 1.5
   WBC 400, RBC [**Numeric Identifier 13175**]
   Diff pending
   LDHeff/LDHserum 1.23 > 0.6 --> exudative
   TP eff/TPserum  0.49 > 0.5 trans/exudative
   - T101.4 at 11pm, blood and urine cultures sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Heparin Sodium - 1,375 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-26**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 77 (63 - 94) bpm
   BP: 125/42(65) {96/38(55) - 168/97(124)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.4 kg (admission): 86 kg
             Total In:
                                                                  2,970 mL
                                                                    802 mL
   PO:
             TF:
                                                                  1,643 mL
                                                                    467 mL
   IVF:
                                                                    967 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  4,880 mL
                                                                    830 mL
   Urine:
                                                                  3,180 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
                                                                  1,700 mL
   Balance:
                                                                 -1,910 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 394 (394 - 394) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   7.6 g/dL
   150 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   20 mg/dL
   101 mEq/L
   139 mEq/L
   22.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2107-1-23**]  02:54 PM
                             [**2107-1-23**]  09:44 PM
                             [**2107-1-24**]  02:11 AM
                             [**2107-1-24**]  08:37 AM
                             [**2107-1-24**]  01:10 PM
                             [**2107-1-24**]  02:58 PM
                             [**2107-1-25**]  02:58 AM
                             [**2107-1-25**]  03:12 AM
                             [**2107-1-25**]  11:04 AM
                             [**2107-1-26**]  02:08 AM
   WBC
   8.4
   8.7
   9.1
   Hct
   25.7
   25.1
   24.5
   22.4
   Plt
   293
   273
   216
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   TropT
   0.20
   0.18
   TCO2
   33
   34
   34
   Glucose
   115
   129
   125
   168
   150
   161
   150
   Other labs: PT / PTT / INR:13.5/37.9/1.2, CK / CKMB /
   Troponin-T:20/3/0.18, Differential-Neuts:70.8 %, Lymph:21.0 %, Mono:5.2
   %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:187 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   Assessment and Plan
   70M DM CHF AF p/w pericardial (drained) and pulmonary (diuresing)
   effusions, unclear etiologies, extubated then intubated for hypercarbic
   respiratory failure
   .
   # Hypercarbic resp failure: Etiology for repeat episode of respiratory
   distress unclear. Occurred in setting of these chronically and still
   poorly explained bilateral pulmonary effusions. Tired quickly on
   pressure support yesterday, ECHO unchanged from prior.
   - Continue Lasix gtt for attempted diuresis
   - Will discuss with Interventional Pulmonary pleural effusion removal
   options which should help with extubation and maintaining
   self-ventilation
   # Bilateral pulmonary effusions: Likely one process driving both the
   pericardial and pulmonary effusions. [**Doctor First Name **] positive but titer 1:80,
   speckled likely non-specific
   - Consult Rheumatology
   - Discuss with IP per above (therapeutic thoracentesis vs. drain
   placement)
   - CT chest after therapeutic [**Female First Name (un) 217**] or sufficient drainage to assess
   size of effusions
   - Continue Lasix gtt per above although decreasing urine output to
   Lasix and systolic blood pressures low yesterday
   # Hypernatremia: Working hypothesis is this resulted from earlier fluid
   management decisions. Now resolved
   - Decrease free water with tube feeds
   # Expressive Aphasia: In setting of runs of A Fib, with known atrial
   thrombus, and MRI/MRA showing sequelae of cardioembolic strokes.
   - On Heparin gtt, PTT 52.6
   - Good blood pressure control
   #. AF / Bradycardia: Has been in sinus rhythm for past two days. Note
   thrombus in atrium.
   - Continue anticoagulation with Heparin gtt -- eventual bridge to
   Coumadin
   - EP f/u once stable for ablation +/- pacer
   - Atropine and pacer pads at bedside
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study.
   - PEG tube feeds
   # Pericardial effusion: Unclear etiology, cultures were negative.  ECHO
   yesterday showed stable, minimal pericardial effusions
   # DM2- On metformin at home.
   - ISS, follow fingersticks
   .
   # HTN- Continue amlodipine and home lopressor
   - Will consider adding Captopril as needed
   # BPH/hematuria- Hematuria resolved
   - Outpatient cystoscopy
   - Continue Foley while intubated
   - Resume Flomax prior to Foley removal
   # FEN: PEG tube feeds, replete electrolytes PRN
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: heparin gtt with low goal PTT for now
   Dispo: ICU for now
    Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Arterial line
   PICC line
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-26**] 05:03 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-1-20**] 09:00 AM
   Arterial Line - [**2107-1-25**] 08:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2107-1-26**] 07:59 PM
   - [**Female First Name (un) **] of right, took off 1.7 L
   - pleural fluid mildly exudative (LDH 127)
   - Hep gtt restarted after, post-[**Female First Name (un) 217**] CXR beautiful
   - After [**Female First Name (un) 217**], put on pressure support. At midnight became tachypneic,
   tachycardic, put back on AC. ABG sent: 7.53/43/151.
   - At 03:15 had SBP 80/30, rec'd 500 cc bolus and lasix gtt on hold for
   now
   - SBT in AM
   - Rheum: Complete neoplasm and infectious work-up. No indication for
   NSAIDs/steroids at this point as low suspicion for rheumatological
   etiology.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,375 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-27**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.6
   HR: 87 (65 - 95) bpm
   BP: 122/41(64) {78/35(47) - 151/50(76)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.4 kg (admission): 86 kg
             Total In:
                                                                  2,539 mL
                                                                  1,341 mL
   PO:
             TF:
                                                                  1,563 mL
                                                                    510 mL
   IVF:
                                                                    856 mL
                                                                    831 mL
   Blood products:
   Total out:
                                                                  5,360 mL
                                                                  1,015 mL
   Urine:
                                                                  3,660 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
                                                                  1,700 mL
   Balance:
                                                                 -2,821 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
 PSV this am [**9-20**]
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 355 (355 - 355) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 31 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.53/43/151/34/12
   Ve: 9.5 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   199 K/uL
   7.9 g/dL
   187 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.6 mEq/L
   27 mg/dL
   99 mEq/L
   140 mEq/L
   23.7 %
   12.0 K/uL
        [image002.jpg]
                             [**2107-1-24**]  01:10 PM
                             [**2107-1-24**]  02:58 PM
                             [**2107-1-25**]  02:58 AM
                             [**2107-1-25**]  03:12 AM
                             [**2107-1-25**]  11:04 AM
                             [**2107-1-26**]  02:08 AM
                             [**2107-1-26**]  03:16 PM
                             [**2107-1-27**]  12:11 AM
                             [**2107-1-27**]  02:48 AM
                             [**2107-1-27**]  02:55 AM
   WBC
   8.7
   9.1
   12.0
   Hct
   24.5
   22.4
   23.1
   23.7
   Plt
   273
   216
   199
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   TropT
   0.18
   TCO2
   34
   34
   39
   37
   Glucose
   168
   150
   161
   150
   167
   187
   Other labs: PT / PTT / INR:13.0/33.3/1.1, CK / CKMB /
   Troponin-T:20/3/0.18, Differential-Neuts:70.8 %, Lymph:21.0 %, Mono:5.2
   %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, LDH:187 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   70M DM CHF AF p/w pericardial (drained) and pulmonary (diuresing)
   effusions, unclear etiologies, extubated then intubated for hypercarbic
   respiratory failure
   .
   # Respiratory status: Good looking CXR after thoracentesis X2. Etiology
   of respiratory problems likely the effusions, which could be
   rheumatologic or represent fluid overload. Of note he is 3.7 L + for
   LOS, and despite great UOP he is basically even for fluid balance not
   counting the thoracentesis. The effusions could be rheumatologic,
   although the [**Doctor First Name **] positive but titer 1:80, speckled likely non-specific.
   Sed rate and CRP markedly elevated. Rheumatology does not feel strongly
   that patient
s effusions are caused by underlying connective tissue
   disease
   - Although tired after three hours on pressure support yesterday, doing
   well this morning. Will try to extubate today. If fails again, would
   consider tracheostomy
   - Hold on further Lasix gtt diuresis given low blood pressures
   overnight
   - Will order repeat CT chest
   # Expressive Aphasia: In setting of runs of A Fib, with known atrial
   thrombus, and MRI/MRA showing sequelae of cardioembolic strokes.
   - On Heparin gtt
   - Good blood pressure control
   # Mild leukocytosis: Could be due to demargination from thoracenteses
   vs. underlying infectious/malignant/rheum process
   - Will trend for now
   - Monitor fever curve
   #. AF / Bradycardia: Has been in sinus rhythm for past 3 days. Note
   thrombus in atrium.
   - Continue anticoagulation with Heparin gtt -- eventual bridge to
   Coumadin
   - EP f/u once stable for ablation +/- pacer, if needed
   - Atropine and pacer pads at bedside
   - On Amlodipine and home lopressor for now
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study.
   - PEG tube feeds
   # Pericardial effusion: Unclear etiology, cultures were negative.
   Recent Echo showed stable, minimal pericardial effusions
   # DM2- On metformin at home.
   - ISS, follow fingersticks
   .
   # HTN- Continue amlodipine and home lopressor
   - Will consider adding Captopril as needed but blood pressures low
   overnight
   # BPH/hematuria- Hematuria resumed overnight but mild
   - Outpatient cystoscopy
   - Continue Foley while intubated
   - Resume Flomax prior to Foley removal
   # FEN: PEG tube feeds, replete electrolytes PRN
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: heparin gtt with low goal PTT for now
   Dispo: ICU for now
    Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Arterial line
   PICC line
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-26**] 06:51 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-1-20**] 09:00 AM
   Arterial Line - [**2107-1-25**] 08:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-28 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-1-27**] 10:10 AM
   - Extubated again. Consider trach if fails
   - Family would like second opinion: [**Doctor Last Name 775**] recommended considering
   antihistone and cardiac MRI
   - CT chest: No malignancy
   - Tube feed rate increased to 75/hr
   - Lasix d/c'd
   - Sputum Cx: 1+ GPC pairs
   - Pleural fluid cytology neg for malignancy x2
   - Persistently SBP>160, given additional 5mg IV lopressor (Home dose of
   25mg [**Hospital1 7**] Lopressor; on Amlodipine 10mg here vs. nifedipine from home)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,775 units/hour
   Other ICU medications:
   Heparin Sodium - [**2107-1-27**] 05:59 PM
   Metoprolol - [**2107-1-28**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36
C (96.8
   HR: 89 (72 - 94) bpm
   BP: 146/38(70) {101/30(50) - 164/85(93)} mmHg
   RR: 20 (17 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.4 kg (admission): 86 kg
             Total In:
                                                                  2,968 mL
                                                                    712 mL
   PO:
             TF:
                                                                  1,567 mL
                                                                    487 mL
   IVF:
                                                                  1,341 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    800 mL
   Urine:
                                                                  2,345 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    623 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 302 (302 - 302) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: 7.43/56/196/34/11
   Ve: 7.8 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Out of bed, in chair
 minimally conversant, but answers appropriately
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   7.8 g/dL
   163 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.8 mEq/L
   24 mg/dL
   101 mEq/L
   141 mEq/L
   23.9 %
   9.1 K/uL
        [image002.jpg]
   CT chest: Vast improvement in pleural effusions. No pneumonia,
   hemorrhage, cardiomegaly present, mild emphysema
   Sputum NGTD
   Pleural cultures NGTD
   Blood cultures X2 NGTD
   Urine culture NGTD
                             [**2107-1-25**]  11:04 AM
                             [**2107-1-26**]  02:08 AM
                             [**2107-1-26**]  03:16 PM
                             [**2107-1-27**]  12:11 AM
                             [**2107-1-27**]  02:48 AM
                             [**2107-1-27**]  02:55 AM
                             [**2107-1-27**]  09:46 AM
                             [**2107-1-27**]  02:08 PM
                             [**2107-1-27**]  04:58 PM
                             [**2107-1-28**]  04:02 AM
   WBC
   9.1
   12.0
   9.1
   Hct
   22.4
   23.1
   23.7
   23.8
   23.9
   Plt
   [**Telephone/Fax (3) 13254**]
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   0.4
   TCO2
   39
   37
   40
   38
   Glucose
   161
   150
   167
   187
   162
   163
   Other labs: PT / PTT / INR:12.6/65.2/1.1, CK / CKMB /
   Troponin-T:20/3/0.18, Differential-Neuts:70.8 %, Lymph:21.0 %, Mono:5.2
   %, Eos:2.8 %, Lactic Acid:0.6 mmol/L, LDH:187 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   70M DM CHF AF p/w pericardial (drained) and pulmonary (diuresing)
   effusions, unclear etiologies, extubated then intubated for hypercarbic
   respiratory failure
   .
   # Respiratory status: Good looking CXR after thoracentesis X2. Etiology
   of respiratory problems likely the effusions, which could be
   rheumatologic or represent fluid overload. Of note he is 4L+ for LOS,
   and despite good UOP he is basically even for fluid balance not
   counting the thoracentesis. The effusions could be rheumatologic,
   although the [**Doctor First Name **] positive but titer 1:80, speckled likely non-specific.
   Sed rate and CRP markedly elevated. Rheumatology does not feel strongly
   that patient
s effusions are caused by underlying connective tissue
   disease but can not rule out drug induced SLE. Most likely this was a
   viral syndrome. Repeat CT chest yesterday not suggestive of infection,
   malignancy, reaccumulation of pleural fluid.  Ultimately, patient
   likely has emphysema and chronic mild hypercarbia which should be
   followed-up as outpatient.
   - Although tired after three hours on pressure support previously,
   patient has been tolerating extubation well. If fails again, would
   consider tracheostomy
   - Hold on further Lasix gtt diuresis given low blood pressures
   overnight
   - Will wean nasal cannula as tolerated
   .
   # Expressive Aphasia: In setting of runs of A Fib, with known atrial
   thrombus, and MRI/MRA showing sequelae of cardioembolic strokes.
   - On Heparin gtt; start Coumadin today
   - Good blood pressure control
   # Mild leukocytosis: Could be due to demargination from thoracenteses
   vs. underlying infectious/malignant/rheum process
   - Will trend for now
   - Monitor fever curve
   #. AF / Bradycardia: Has been in sinus rhythm for past 4 days. Note
   thrombus in atrium.
   - Continue anticoagulation with Heparin gtt
 will start bridging to
   Coumadin today
   - EP f/u once stable for ablation +/- pacer, if needed
   - Atropine and pacer pads at bedside
   - On Amlodipine and home lopressor for now
   #. Dysphagia- Likely secondary to cardioembolic CVA. Failed a swallow
   study.
   - PEG tube feeds
   # Pericardial effusion: Unclear etiology, cultures were negative.
   Recent Echo showed stable, minimal pericardial effusions.  Patient does
   have significant cardiomegaly on CT chest and chest xrays
 with
   previously read EF65%, patient likely has MR [**First Name (Titles) **] [**Last Name (Titles) 13277**] EF.
   - Will repeat ECHO today given possibly better windows with removal of
   pleural effusions now
   # DM2- On metformin at home.
   - ISS, follow fingersticks
   .
   # HTN- Continue amlodipine and home lopressor
   - Will consider adding Captopril as needed but blood pressures low
   overnight
   # BPH/hematuria- Hematuria resumed overnight but mild
   - Outpatient cystoscopy
   - Continue Foley while intubated
   - Resume Flomax prior to Foley removal
   # FEN: PEG tube feeds, replete electrolytes PRN
   CODE: FULL, confirmed, wife is [**Name (NI) 3563**] number on consent in chart
   [**Name (NI) **]: heparin gtt with low goal PTT for now
   Dispo: ICU for now
    Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-19**] 06:31 AM
   Arterial line
   PICC line
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held, ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-27**] 10:21 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-1-20**] 09:00 AM
   Arterial Line - [**2107-1-25**] 08:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-28 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Comfortable off vent for 24 hrs
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-1-27**] 10:10 AM
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,775 units/hour
   Other ICU medications:
   Heparin Sodium - [**2107-1-27**] 05:59 PM
   Metoprolol - [**2107-1-28**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy, heparin
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, Daytime
   somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-1-28**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 83 (72 - 92) bpm
   BP: 146/39(68) {113/36(63) - 164/85(93)} mmHg
   RR: 23 (17 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.4 kg (admission): 86 kg
             Total In:
                                                                  2,968 mL
                                                                  1,063 mL
   PO:
             TF:
                                                                  1,567 mL
                                                                    682 mL
   IVF:
                                                                  1,341 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    845 mL
   Urine:
                                                                  2,345 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    623 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.43/56/196/34/11
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, PEG
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), [**1-22**]
   SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   bases), (Breath Sounds: No(t) Clear : , Crackles : Bases, No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   7.8 g/dL
   201 K/uL
   163 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.8 mEq/L
   24 mg/dL
   101 mEq/L
   141 mEq/L
   23.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2107-1-25**]  11:04 AM
                             [**2107-1-26**]  02:08 AM
                             [**2107-1-26**]  03:16 PM
                             [**2107-1-27**]  12:11 AM
                             [**2107-1-27**]  02:48 AM
                             [**2107-1-27**]  02:55 AM
                             [**2107-1-27**]  09:46 AM
                             [**2107-1-27**]  02:08 PM
                             [**2107-1-27**]  04:58 PM
                             [**2107-1-28**]  04:02 AM
   WBC
   9.1
   12.0
   9.1
   Hct
   22.4
   23.1
   23.7
   23.8
   23.9
   Plt
   [**Telephone/Fax (3) 13254**]
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   0.4
   TCO2
   39
   37
   40
   38
   Glucose
   161
   150
   167
   187
   162
   163
   Other labs: PT / PTT / INR:12.6/65.2/1.1, CK / CKMB /
   Troponin-T:20/3/0.18, Differential-Neuts:70.8 %, Lymph:21.0 %, Mono:5.2
   %, Eos:2.8 %, Lactic Acid:0.6 mmol/L, LDH:187 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 DYSPHAGIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERNATREMIA (HIGH SODIUM)
   He is much improved but we still have several issues: Cardiomeg - with
   EF 65% here seems likely he either has MR or his EF is overestimated-
   will re-echo and consult cardiology. Nature of serositis - seems likely
   this was viral but have not completely r/o drug induced SLE.  Resp
   failure - likely has substantial emphysema and chronic mild hypercarbia
   - should have f/u as an outpt. We are initiating coumadin and getting
   him screened for rehab.
   Time spent 40 min
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-27**] 10:21 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2107-1-20**] 09:00 AM
   Arterial Line - [**2107-1-25**] 08:44 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes